US08067445B2
Step 1: (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
To (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.301 g, 0.85 mmol) in MeOH (2.4 mL) and THF (3 mL) was added aqueous 1N NaOH (1.9 mL), and the solution was stirred overnight at room temperature. Once no starting material was seen by analytical LCMS, the reaction was neutralized with aqueous 1N HCl and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (50-100% EtOAc in hexanes, followed by 5% MeOH in CH2Cl2) to give the title compound.

reactant | (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.85 mmol, 0.301 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
reactant | NaOH | 1N, 1.9 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2.4 mL | CO | CH4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | C(=O)C1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C17H13F3O4
